US04954518
7-Methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one-2-carboxylic acid chloride was reduced by sodium boron hydride to obtain 2-hydroxymethyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 7-Methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one-2-carboxylic acid chloride | CS(=O)(=O)NC1=CC2=C(C(C=C(O2)C(=O)Cl)=O)C=C1OC1=CC=CC=C1 | C17H12ClNO6S
reactant | sodium boron hydride | B.[Na]
product | 2-hydroxymethyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | OCC=1OC2=C(C(C1)=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H15NO6S
